US08217069B2
2-Chloro-5-mercapto-4-methoxyaniline
To a solution of 5-chloro-4-(1,3-dioxo-1,3-dihydroisoindol-2-yl)-2-mercaptoanisole (0.65 g) in tetrahydrofuran (20 mL) was added hydrazine monohydrate (0.5 mL), and the mixture was heated at reflux for 1.5 hours. The insoluble material was removed by filtration, and the filtrate was concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: n-hexane−n-hexane/ethyl acetate=1/1) to give the title compound (0.3 g).

reactant | 5-chloro-4-(1,3-dioxo-1,3-dihydroisoindol-2-yl)-2-mercaptoanisole | 0.65 g | ClC=1C(=CC(=C(C1)OC)S)N1C(C2=CC=CC=C2C1=O)=O | C15H10ClNO3S
reactant | hydrazine monohydrate | 0.5 mL | O.NN
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 2-Chloro-5-mercapto-4-methoxyaniline | 0.3 g | ClC1=C(N)C=C(C(=C1)OC)S | C7H8ClNOS
